US07488827B2
1-{[(2-bromoethyl)oxy]methyl}-4-chlorobenzene
A solution of N-bromosuccinimide (272 mg, 1.53 mmol) in DCM (2.5 mL) was added to resin-bound triphenylphosphine (510 mg, 1.53 mEquiv, Fluka) in DCM (2.5 mL), and the reaction was stirred at rt for 10 min. A solution of 2-{[(4-chlorophenyl)methyl]oxy}ethanol (129 mg, 0.691 mmol) in DCM (1.5 mL) was added to the reaction, and the residual alcohol was transferred with additional DCM (1.5 mL). The reaction vial was capped, wrapped in aluminum foil, and stirred at rt for 20 h. The reaction was filtered through a SPE cartridge (5 g silica) eluting with the following 10 mL fractions: DCM (fraction 1), 30% EtOAc/hexanes (fraction 2), and 50% EtOAc/hexanes (fraction 3) to give the title compound (98 mg, 57%). The product was characterized by 1H NMR (400 MHz) in CDCl3.

reactant | N-bromosuccinimide | 1.53 mmol, 272 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | triphenylphosphine | 510 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-{[(4-chlorophenyl)methyl]oxy}ethanol | 0.691 mmol, 129 mg | ClC1=CC=C(C=C1)COCCO | C9H11ClO2
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | aluminum | [Al] | Al
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 1-{[(2-bromoethyl)oxy]methyl}-4-chlorobenzene | 98 mg, 57% | BrCCOCC1=CC=C(C=C1)Cl | C9H10BrClO
